US04931581
Preparation of 2-benzylthio-3,5-diamino-benzoic acid methyl ester (intermediate)
The 2-benzylthio-3,5-dinitrobenzoic acid methyl ester obtained in the previous stage (see Example 1.14), which is still damp, is dissolved in 2 l of tetrahydrofuran and hydrogenated at from 30° to 35° C. with the addition of 3×40 g of Raney nickel. The catalyst is then removed by filtration, the filtrate is concentrated and the residue is taken up in ethyl acetate. After drying over magnesium sulfate and treating with activated carbon and fuller's earth, the filtrate is concentrated and the product is caused to crystallise by the addition of diethyl ether.

reactant | 2-benzylthio-3,5-dinitrobenzoic acid methyl ester | COC(C1=C(C(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])SCC1=CC=CC=C1)=O | C15H12N2O6S
solvent | tetrahydrofuran | 2 l | O1CCCC1 | C4H8O
catalyst | Raney nickel | 40 g | [Ni] | Ni
product | 2-benzylthio-3,5-diamino-benzoic acid methyl ester | COC(C1=C(C(=CC(=C1)N)N)SCC1=CC=CC=C1)=O | C15H16N2O2S
